US05403702
To a solution of 1.6 g of 2,3,3-trimethylindolenine in 10 ml of chloroform was added 2.8 g of 1-bromododecane and the mixture was heated in an autoclave at 80° C. for 20 hours. The resulting precipitate was recovered by filtration to give 3.7 g of 1-dodecyl-2,3,3-trimethylindolenium as white crystals. To the crystals thus obtained was added 40 ml of 10N aqueous potassium hydroxide solution in a nitrogen atmosphere and the mixture was heated at 50° C. for 3 hours. The reaction mixture was then extracted with ether and the extract was dried over magnesium sulfate and concentrated under reduced pressure to give 2.7 g of 3,3-dimethyl-1-dodecyl-2-methyleneindoline (Yield 82%).

reactant | 2,3,3-trimethylindolenine | 1.6 g | CC1=NC2=CC=CC=C2C1(C)C | C11H13N
reactant | 1-bromododecane | 2.8 g | BrCCCCCCCCCCCC | C12H25Br
reactant | potassium hydroxide | 10N, 40 ml | [OH-].[K+]
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 3,3-dimethyl-1-dodecyl-2-methyleneindoline | 2.7 g, Yield 82% | CC1(C(N(C2=CC=CC=C12)CCCCCCCCCCCC)=C)C | C23H37N
